US05312828
(E)-3-[2-n-Butyl-1-[(2-chlorophenyl)methyl]-4-hydroxymethyl-1H-imidazol-5-yl]-2-benzyl-2-propenoic acid, prepared as in Example 28, is esterified with p-methoxy-benzyl alcohol to give the p-methoxybenzyl propenoate. The 4-hydroxymethyl group is oxidized using Jones reagent in acetone and the ester is hydrolized using 10% sodium hydroxide to give the title compound.

reactant | (E)-3-[2-n-Butyl-1-[(2-chlorophenyl)methyl]-4-hydroxymethyl-1H-imidazol-5-yl]-2-benzyl-2-propenoic acid | C(CCC)C=1N(C(=C(N1)CO)/C=C(/C(=O)O)\CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C25H27ClN2O3
reactant | p-methoxy-benzyl alcohol | COC1=CC=C(CO)C=C1 | C8H10O2
product | p-methoxybenzyl propenoate | C(C=C)(=O)OCC1=CC=C(C=C1)OC | C11H12O3
